US03993656
Preparation of 3-(4-pyridyl)-5,7-di(trifluoromethyl)-1,8-naphthyridin-2(1H)-one
Glycol (30 ml.) is heated in a oil-bath at 175° C. N1 -[2-amino-4,6-di(trifluoromethyl)-nicotinoyl]-N2 -benzenesulfonyl hydrazine (1.28 g., 3 mmole) is added followed immediately by a solution of methyl 4-pyridyl acetate (453 mg., 3 mmole) and 1,4-diazabicyclo[2,2,2]octane (336 mg., 3 mmole) in ethylene glycol (6 ml.). The mixture is stirred vigorously until the temperature reaches 160° C. whereupon anhydrous sodium carbonate (900 mg.) is added. Heating in the oil-bath is continued for one minute and the reaction mixture then is allowed to cool and is then poured into water (200 ml.). Precipitation of the product is initiated by the addition of a single drop of acetic acid. A fine ochre colored solid is collected after it crystallizes overnight giving 639 mg. of product, m.p. 235°-236° C. Neutralization of the mother liquors to pH 7 with acetic acid provides an additional 51 mg. of product, m.p. circa 250°-270° C. Purification of the combined crude material by soxhlet extraction with acetonitrile gives 328 mg. (30%) of product., m.p. 282°-285° C. with some decomposition.

reactant | N1 -[2-amino-4,6-di(trifluoromethyl)-nicotinoyl]-N2 -benzenesulfonyl hydrazine | 3 mmole, 1.28 g | NC1=C(C(=O)NNS(=O)(=O)C2=CC=CC=C2)C(=CC(=N1)C(F)(F)F)C(F)(F)F | C14H10F6N4O3S
reactant | 1,4-diazabicyclo[2,2,2]octane | 3 mmole, 336 mg | N12CCN(CC1)CC2 | C6H12N2
reactant | sodium carbonate | 900 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 200 ml | O | H2O
reactant | ethylene glycol | 6 ml | C(CO)O | C2H6O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 3-(4-pyridyl)-5,7-di(trifluoromethyl)-1,8-naphthyridin-2(1H)-one | N1=CC=C(C=C1)C=1C(NC2=NC(=CC(=C2C1)C(F)(F)F)C(F)(F)F)=O | C15H7F6N3O
